US06884814B2
Step b) 1-[2-(Methoxymethoxy)-4-propylphenyl]propan-1-ol.
To a solution of 1-(methoxymethoxy)-3-propylbenzene (14.0 g, 77.7 mmol) in pentane (80 mL) at 0° C. was added tert-BuLi (55 mL, 93.2 mmol, 1.7 M in pentane) slowly. The resulting suspension was stirred at 0° C. for 1.5 h and then the precipitate was allowed to settle without stirring at 0° C. for 1.5 h. The supernatant was removed via a syringe and THF (180 mL) was added. To the thick slurry at 0° C. was added propionaldehyde (11.2 mL, 155.4 mmol, ran through basic alumina) slowly. The resulting solution was stirred at 0° C. for 1 h and then at room temperature for 12 h. About half of the solvent was removed in vacuo, the reaction solution was quenched with water, and most of the remaining THF was removed in vacuo. Extraction in EtOAc (2×200 mL) with 1:1 saturated NH4Cl/brine (100 mL) and flash chromatography with silica gel (gradient to 32% EtOAc/hexanes) provided the title compound as a colorless liquid (12.9 g, 70% yield): 1H NMR (300 MHz, CDCl3) δ 0.94 (t, 3H, J=7.2 Hz), 0.96 (t, 3H, J=7.2 Hz), 1.61 (m, 2H), 1.82 (m, 2H), 2.37 (broad s, 1H), 2.55 (t, 2H, J=7.7 Hz), 3.50 (s, 3H), 4.82 (t, 1H, J=6.6 Hz), 5.22 (s, 2H), 6.84 (d, 1H, J=7.7 Hz), 6.91 (s, 1H), 7.23 (d, 1H, J=7.7 Hz); MS m/e 221 (M+H−H2O)+.

reactant | 1-(methoxymethoxy)-3-propylbenzene | 77.7 mmol, 14.0 g | COCOC1=CC(=CC=C1)CCC | C11H16O2
reactant | tert-BuLi | 93.2 mmol, 1.7 M, 55 mL | [Li]C(C)(C)C
reactant | propionaldehyde | 155.4 mmol, 11.2 mL | C(CC)=O | C3H6O
solvent | pentane | 80 mL | CCCCC | C5H12
product | 1-[2-(Methoxymethoxy)-4-propylphenyl]propan-1-ol | 12.9 g, 70% yield | COCOC1=C(C=CC(=C1)CCC)C(CC)O | C14H22O3
